US08106190B2
tert-Butoxy potassium was added to a mixture of 2-fluoro-4-(trifluoromethyl)benzonitrile, 3-pyridine amine and THF, followed by stirring at room temperature for 7 hours. After neutralizing the reaction liquid by adding 1 M hydrochloric acid thereto and subsequent extraction with chloroform, the solvent was evaporated under a reduced pressure. The residue was purified by column chromatography to obtain 2-(pyridine-3-ylamino)-4-(trifluoromethyl)benzonitrile.

reactant | tert-Butoxy potassium | C(C)(C)(C)O[K]
reactant | 2-fluoro-4-(trifluoromethyl)benzonitrile | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | 3-pyridine amine | N1=CC(=CC=C1)N | C5H6N2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 2-(pyridine-3-ylamino)-4-(trifluoromethyl)benzonitrile | N1=CC(=CC=C1)NC1=C(C#N)C=CC(=C1)C(F)(F)F | C13H8F3N3
